US08609647B2
(1) Pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-(3,3-difluoroallyl)ester
To a solution of pyrrolidine-1,3-dicarboxylic acid-1-tert-butyl ester (3.40 g) in N,N-dimethylformamide (34 ml) were added potassium carbonate (4.37 g) and 3-bromo-3,3-difluoropropene (1.93 ml), and the mixture was stirred at 60° C. for 6 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1) to give the titled compound (3.73 g).

reactant | pyrrolidine-1,3-dicarboxylic acid-1-tert-butyl ester | 3.40 g | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)O | C10H17NO4
reactant | potassium carbonate | 4.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-3,3-difluoropropene | 1.93 ml | BrC(C=C)(F)F | C3H3BrF2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 34 ml | CN(C=O)C | C3H7NO
product | Pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-(3,3-difluoroallyl)ester | 3.73 g | FC(=CCOC(=O)C1CN(CC1)C(=O)OC(C)(C)C)F | C13H19F2NO4
